US08487108B2
Crude (S)-2-(tert-butoxycarbonylamino)-3-(1-fluorocyclohexyl)propyl methanesulfonate and (n-Bu)4N+T (249 mg, 1.0 mmol) were dissolved in 33% methylamine in ethanol (50 mL). The mixture was heated to 50° C. for 17 h. The solution was cooled to rt and the volatile materials were removed in vacuo. The residue was dissolved in ether, washed with brine, dried over Na2SO4, filtered and evaporated. To afford crude (S)-tert-butyl 1-(1-fluorocyclohexyl)-3-(methylamino)propan-2-ylcarbamate.

reactant | (S)-2-(tert-butoxycarbonylamino)-3-(1-fluorocyclohexyl)propyl methanesulfonate | CS(=O)(=O)OC[C@H](CC1(CCCCC1)F)NC(=O)OC(C)(C)C | C15H28FNO5S
reactant | methylamine | CN | CH5N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (S)-tert-butyl 1-(1-fluorocyclohexyl)-3-(methylamino)propan-2-ylcarbamate | FC1(CCCCC1)C[C@@H](CNC)NC(OC(C)(C)C)=O | C15H29FN2O2
